Complimentary Cross Quad CMOS Oscillator
* Predicted frequency is 5.61224e+08 Hz.
*
* PLOT i1

* Supply
vdd	vdd	gnd	1.2 pwl 0 1.2 1e-9 1.2
rdd	vdd	vdd_ana	70m
rgnd	gnd	gnd_ana	70m

* Cross quad
mpsx	v_plus	v_minus	vdd_ana	vdd_ana	pch	w=10u l=0.1u
mnsx	v_plus	v_minus	gnd_ana	gnd_ana	nch	w=10u l=0.1u
mpdx	v_minus	v_plus	vdd_ana	vdd_ana	pch	w=10u l=0.1u
mndx	v_minus	v_plus	gnd_ana	gnd_ana	nch	w=10u l=0.1u

* Lumped elements model of real inductor
ls	v_plus	i1	19.462n	ic=0.06
rs	i1	v_minus	7.789
cs	v_plus	v_minus	443f
coxs	v_plus	is	2.178p
coxd	v_minus	id	2.178p
rsis	is	gnd_ana	308
rsid	id	gnd_ana	308
csis	is	gnd_ana	51f
csid	id	gnd_ana	51f

* Parallel capacitor to determine leading resonance
cp	v_plus	v_minus	3.4p

.model nch nmos ( version=4.7 level=54 lmin=0.1u lmax=20u wmin=0.1u wmax=10u  )
.model pch pmos ( version=4.7 level=54 lmin=0.1u lmax=20u wmin=0.1u wmax=10u  )

.control
tran 0.05n 1u uic
plot i1
reset
pss 400e6 100n 1 1024 10 10 5e-3 uic
set xbrushwidth=3
plot mag(i1) arrowplot
setplot pss1
plot i1
.endc

.end

